US07906660B2
4′,7-Dihydroxy-8-methylisoflavan-4-ol was prepared from 4′,7-diacetoxy-8-methylisoflavan-4-ol (0.4 g, 1.1 mmol) and imidazole (1.0 g) in ethanol (7.0 ml) as described for cis- and trans-tetrahydrodaidzein.

reactant | 4′,7-diacetoxy-8-methylisoflavan-4-ol | 1.1 mmol, 0.4 g | C(C)(=O)OC1=CC=C(C2COC3=C(C(=CC=C3C2O)OC(C)=O)C)C=C1 | C20H20O6
reactant | imidazole | 1.0 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 7.0 ml | C(C)O | C2H6O
product | 4′,7-Dihydroxy-8-methylisoflavan-4-ol | OC1=CC=C(C2COC3=C(C(=CC=C3C2O)O)C)C=C1 | C16H16O4
